reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C@@:4]([C:5]([H:16])([H:17])[H:18])([C:6]#[N:7])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C+:4]=[C:6]=[N-:7])[H:11])([H:8])([H:9])[H:10].[C:5]([H:15])([H:16])([H:17])[H:18],90.76740943409679
[C:2]1([H:8])=[C:4]([H:11])[C:3]1([H:9])[H:10].[O:1]([C:5]#[N:6])[H:7]>>[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5]#[N:6])[H:11])[H:7],47.72314852675071
[C:1](=[C:2]([C:3]([C@@:4]([C:5]([H:16])([H:17])[H:18])(/[C:6](=[N:7]/[H:8])[H:11])[H:15])([H:13])[H:14])[H:12])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C@@:4]([C:5]([H:16])([H:17])[H:18])([C:6]#[N:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],71.3203248300924
[C:1]([C@@:2]([O:3][H:12])([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1](/[C:2]([O:3][H:12])=[C:4](/[C:5]([H:14])([H:15])[H:16])[C:6]#[N:7])([H:8])([H:9])[H:10].[H:11][H:13],96.6847116457241
[C:1]([C:2]([N:3]=[O:4])=[C:5]=[C:6]([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[N:3]\[O:4][H:10])[C:5]#[C:6][H:11])([H:7])([H:8])[H:9],85.76250879008373
[C:1]([C:2](/[C:3](=[C:4](\[C:5]([C:6]#[C:7][H:17])([H:15])[H:16])[H:14])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6]#[C:7][H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10],84.55941196933307
[C:1]([C@@:2]1([H:11])[C@:3]([C:4]([H:13])([H:14])[H:15])([H:12])[C@:5]1([C:6]#[N:7])[H:16])([H:8])([H:9])[H:10]>>[C:1](/[C:2](=[C:5](\[C:6]#[N:7])[H:16])[H:11])([H:8])([H:9])[H:10].[C:3](=[C:4]([H:13])[H:15])([H:12])[H:14],82.7335275384483
[C:1]([C:2]([N:3]([C:4](=[O:5])[C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:5]/[C:4](=[N:3]/[H:12])[C:6]([H:13])([H:14])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9],73.249691650318
[C:1](=[C:2]([O:3][H:6])[N:4]([H:8])[H:9])([H:5])[H:7]>>[C:1]([C:2](=[O:3])[N:4]([H:8])[H:9])([H:5])([H:6])[H:7],37.79287474042779
[O:1]([C:2]([C:3]([O:4][C:5](=[O:6])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]1[C:2]([H:8])([H:9])[C:3]([H:10])([H:11])[O:4][C:5]1([O:6][H:7])[H:12],44.4534000343723
[C:1](=[C:2]([C:6]#[N:7])[H:11])([H:8])[H:10].[C:3](=[C:4]([O:5][H:16])[H:15])([H:12])[H:13].[H:9][H:14]>>[C:1]([C@@:2]([C:3]([C:4]([O:5][H:16])([H:14])[H:15])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10],45.5527759527711
[C:1]([O:2][C:3]([C@@:4]1([H:11])[N:5]([H:12])[C:6]1)([H:9])[H:10])([H:7])([H:8])[H:13]>>[C:1]1([H:7])([H:8])[O:2][C:3]([H:9])([H:10])[C@@:4]2([H:11])[N:5]([H:12])[C@@:6]12[H:13],29.2043407339306
[C:1]([O:2][C:3]([C:4][O:6][H:16])([H:10])[H:11])([H:7])([H:8])[H:9].[C:5]([H:12])([H:13])([H:14])[H:15]>>[C:1]([O:2][C:3]([C@@:4]([C:5]([H:13])([H:14])[H:15])([O:6][H:16])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],27.956067017139887
[N:1](=[C:2](/[O:3][C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8]>>[N:1]1([H:8])[C@:2]2([H:9])[O:3][C:4]([H:10])([H:11])[C:5]([H:12])([H:13])[C:6]1=[N:7]2,81.9004471125743
[C:1]([O:2]/[C:3](=[N:4]\[H:11])[N:5]([C:6](=[O:7])[H:13])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](=[N:4]\[H:11])/[N:5]=[C:6](/[O:7][H:12])[H:13])([H:8])([H:9])[H:10],44.8189467633393
[C:1]([C:2]([C:3]([C:4]([C:5]([O:6][C:7]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[H:14].[C:2](=[C:3]([C:4]([C:5]([O:6][C:7]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])[H:13])([H:11])[H:12],114.99097964715901
[C:1](=[N:2][H:10])([H:7])[H:9].[C:3](=[O:4])=[C:5]=[C:6]([H:8])[H:11]>>[C:1]([N:2]([C:3](=[O:4])[C:5]#[C:6][H:11])[H:10])([H:7])([H:8])[H:9],25.97782748624951
[C:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([H:10])[H:11])([H:7])[H:8].[C:3](=[O:4])=[C:5]=[C:6]([H:9])[H:12],56.079848158444214
[C:1]([N:2]([C:3](=[O:4])[N:5](/[C:6](=[N:7]/[H:14])[H:13])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C-:1]([N+:2]([C:3](=[O:4])[N:5](/[C:6](=[N:7]/[H:14])[H:13])[H:12])([H:10])[H:11])([H:8])[H:9],94.4788708876005
[O:1]([C:2](/[C:3](=[C:4](\[O:5][C:6]#[C:7][H:13])[H:12])[H:11])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]([C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:9])[H:10])[H:8],64.13853707251681
[C:1]1([H:7])([H:8])[C@@:2]([C:6](=[C:5]([H:10])[H:11])[H:12])([H:9])[O+:3]=[C-:4]1>>[C:1]1([H:7])([H:8])[C@@:2]2([H:9])[O:3][C@:4]1([H:10])[C:5]([H:11])=[C:6]2[H:12],40.861225889406505
[C:1]([C@@:2]([C:3](=[O:4])[H:12])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3](=[O:4])[H:12])(/[C:5]([O:6][H:14])=[N:7]\[H:13])[H:11])([H:8])([H:9])[H:10],43.4380501452404
[O:1]([C:2]([C@@:3]([C:4]#[C:5][H:12])([C:6]#[N:7])[H:11])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3](=[C:4]=[C:5]([H:11])[H:12])[C:6]#[N:7])([H:9])[H:10])[H:8],73.8277579336671
[C:1]([O:2][C:3](=[O:4])[C:5](=[O:6])[H:11])([H:7])([H:8])[H:9].[H:10][H:12]>>[C:1]([O:2][C:3](=[O:4])[C:5]([O:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9],68.42550142514308
